US07393852B2
A. Preparation of (R)-tert-butyl 6-bromo-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate.
To a solution of (t-Boc)2O (3.28 g, 15 mmol) and (R)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-amine (3.94 g, 15 mmol) in DMF (10 mL)was added dropwise triethylamine (3.0 g, 30 mmol) at 0 C. After stirring 3 h at room temperature, the reaction solution was diluted with EtOAc/Hexane (2:1), washed with water, dried over Na2SO4 and evaporated to afford the title compound as a white solid.

reactant | (t-Boc)2O | 15 mmol, 3.28 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | (R)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-amine | 15 mmol, 3.94 g | BrC=1C=C2CC[C@H](CC2=CC1)N | C10H12BrN
reactant | triethylamine | 30 mmol, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | (R)-tert-butyl 6-bromo-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate | BrC=1C=C2CC[C@H](CC2=CC1)NC(OC(C)(C)C)=O | C15H20BrNO2
